US06087536
Preparation of 2-methylbenzindane
A solution of 20 g (166 mmol) of naphthalene in 50 ml of methylene chloride was added dropwise to a mixture of 22.13 g of AlCl3 (166 mmol) and 22.41 g of 3-bromoisobutene (166 mmol) in 250 ml of the same solvent. During the addition, the temperature was kept at -10° C. After the addition had ended, the mixture was stirred at room temperature for 12 h and then hydrolyzed with 100 ml of water and acidified with 50 ml of conc. HCl. After the separation, the aqueous phase was extracted with methylene chloride and the combined organic phases were extracted with water. The methylene chloride was removed from the solution under reduced pressure and the residue was dissolved in toluene. The solids were separated off and the solution obtained was neutralized using K2CO3 and dried with Na2SO4. To remove byproducts, the filtrate obtained was chromatographed over silica gel 60.

reactant | naphthalene | 166 mmol, 20 g | C1=CC=CC2=CC=CC=C12 | C10H8
reactant | AlCl3 | 166 mmol, 22.13 g | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | HCl | 50 ml | Cl | ClH
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
solvent | water | 100 ml | O | H2O
product | 2-methylbenzindane | CC1CC2=C3C(=CC=C2C1)C=CC=C3 | C14H14
